US06498251B1
Synthesis Example 44c 5-Fluoro-3.4-dihydro-2H-isoquinolin-1-one
Ethanol and Raney nickel (Aldrich) were added to 2-cyanomethyl-3-fluoro-benzoic acid methyl ester (3.3 g, 17 mmol) to carry out catalytic reduction under ordinary pressure at 50° C. for 7 hours and then at room temperature for 15 hours. Raney nickel was removed from the reaction solution by filtration, the solvent was removed by evaporation under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 2.1 g (13 mmol, 74% in yield) of the title compound.

reactant | 2-cyanomethyl-3-fluoro-benzoic acid methyl ester | 17 mmol, 3.3 g | COC(C1=C(C(=CC=C1)F)CC#N)=O | C10H8FNO2
catalyst | Raney nickel | [Ni] | Ni
solvent | Ethanol | C(C)O | C2H6O
product | 5-Fluoro-3.4-dihydro-2H-isoquinolin-1-one | FC1=C2CCNC(C2=CC=C1)=O | C9H8FNO
